US07253286B2
5-(6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylsulfanyl)-thiophen-2-ylamine
After adding 543 mg of iron powder, 1.06 g of ammonium chloride, 10 ml of dimethylformamide, 20 ml of ethanol and 5 ml of water to the 4-(5-nitro-2-thiophenylsulfanyl)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine synthesized in production Example 162-1, the mixture was stirred at 90° C. for 2 hours, 30 ml of tetrahydrofuran was added, and then the mixture was returned to room temperature and filtered with celite, and ethyl acetate and water were added to the filtrate for liquid separation and extraction. The organic layer was dried over anhydrous sodium sulfate, filtered with plug cotton and concentrated to dryness to obtain 435 mg of the title compound.

reactant | ammonium chloride | 1.06 g | [Cl-].[NH4+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 4-(5-nitro-2-thiophenylsulfanyl)-6-phenyl-7H-pyrrolo[2,3-d]pyrimidine | [N+](=O)([O-])C1=CC=C(S1)SC=1C2=C(N=CN1)NC(=C2)C2=CC=CC=C2 | C16H10N4O2S2
catalyst | iron | 543 mg | [Fe] | Fe
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 5-(6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylsulfanyl)-thiophen-2-ylamine | 435 mg | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2SC2=CC=C(S2)N)N1 | C16H12N4S2
